US06987116B2
A mixture of 2,4-dichloro-5-methoxyaniline (380 mg, 2.0 mmol) and 60% sodium hydride (80 mg, 2.0 mmol) in 20 mL of tetrahydrofuran is heated at reflux for 1 hour. The solution is cooled and 7-chloro-2-iodothieno[3,2-b]pyridine-6-carbonitrile (320 mg, 1.0 mmol) is added and the reaction mixture is heated at reflux overnight. The reaction mixture is cooled to room temperature and partitioned between ethyl acetate and water. The organic layer is washed with water, dried over magnesium sulfate, filtered and concentrated in vacuo. The residue is purified by flash column chromatography eluting with 2% methanol in chloroform to provide 240 mg of 7-[(2,4-dichloro-5-methoxyphenyl)amino]-2-iodothieno[3,2-b]pyridine-6-carbonitrile as yellow crystals, mp 233-234° C.; 1H NMR (DMSO-d6) δ 3.85 (s, 3H), 7.38 (s, 1H), 7.77 (s, 1H), 7.79 (s, 1H), 8.56 (s, 1H), 9.74 (s, 1H); MS 475.9 (M+H)+.

reactant | 2,4-dichloro-5-methoxyaniline | 2.0 mmol, 380 mg | ClC1=C(N)C=C(C(=C1)Cl)OC | C7H7Cl2NO
reactant | sodium hydride | 2.0 mmol, 80 mg | [H-].[Na+]
reactant | 7-chloro-2-iodothieno[3,2-b]pyridine-6-carbonitrile | 1.0 mmol, 320 mg | ClC1=C2C(=NC=C1C#N)C=C(S2)I | C8H2ClIN2S
solvent | tetrahydrofuran | 20 mL | O1CCCC1 | C4H8O
product | 7-[(2,4-dichloro-5-methoxyphenyl)amino]-2-iodothieno[3,2-b]pyridine-6-carbonitrile | 240 mg | ClC1=C(C=C(C(=C1)Cl)OC)NC1=C2C(=NC=C1C#N)C=C(S2)I | C15H8Cl2IN3OS
